* LM393 Dual General-Purpose Comparator
* file name: DUAL_LM393.lib
.subckt LM393 1out 1in- 1in+ gnd 2in+ 2in- 2out vdd
.include LM393.LIB
XU1A 1in+ 1in- vdd gnd 1out TLV271
XU1B 2in+ 2in- vdd gnd 2out TLV271
.ends